US04654343
Methyl[3-(3-methyl-1,2,4-triazolo[4,3-b]-pyridazin-6-yl)phenyl]carbamic acid, methyl ester
A mixture of 1.27 g of [3-(3-methyl-1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]carbamic acid, methyl ester, 100 ml of dry dimethylformamide and 0.129 g of sodium hydride was stirred under argon, for 30 minutes, then 0.31 ml of methyl iodide was added. This mixture was stirred for 2 hours, then poured into saturated aqueous sodium bicarbonate and extracted with dichloromethane. The extracts were combined, dried and evaporated. The residue was dissolved in dichloromethane:methanol (95:5) and filtered through a short plug of silica gel. The filtrate was concentrated and the resulting solid chromatographed on a column of 500 g of silica gel, eluting with dichloromethane:methanol (97:3). Fractions containing product were combined, evaporated and the solid recrystallized from dichloromethane-hexane, giving 0.92 g of the desired product as off-white crystals, mp 164°-166° C.

reactant | [3-(3-methyl-1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]carbamic acid, methyl ester | 1.27 g | CC1=NN=C2N1N=C(C=C2)C=2C=C(C=CC2)NC(OC)=O | C14H13N5O2
reactant | sodium hydride | 0.129 g | [H-].[Na+]
reactant | methyl iodide | 0.31 ml | CI | CH3I
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | Methyl[3-(3-methyl-1,2,4-triazolo[4,3-b]-pyridazin-6-yl)phenyl]carbamic acid, methyl ester | 0.92 g | CN(C(OC)=O)C1=CC(=CC=C1)C=1C=CC=2N(N1)C(=NN2)C | C15H15N5O2
